US06573263B2
163 g (1.58 mol) of 2-aminobutyric acid are reacted analogously to Example 1A with 242 g (2.37 mol) of acetic anhydride to give 2-(acetylamino)butanoic acid.

reactant | 2-aminobutyric acid | 1.58 mol, 163 g | NC(C(=O)O)CC | C4H9NO2
reactant | acetic anhydride | 2.37 mol, 242 g | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(acetylamino)butanoic acid | C(C)(=O)NC(C(=O)O)CC | C6H11NO3
